US03952001
A mixture of 7.1 g. 3-allylthio-1,2,4-triazole, (m.p. 27° - 30°C., prepared from 3-mercapto-1,2,4-triazole in an analogous manner to that described in Example 1), 8.0 g. diallylcarbamoyl chloride, 7.5 ml. dry triethylamine and 100 ml. dry tetrahydrofuran was refluxed under anhydrous conditions for 48 hours. The reaction mixture was worked up as described in Example 1 to give 1-diallylcarbamoyl-3-allylthio-1,2,4-triazole, b.p. 120° - 122°C./0.1 mm. (95.2% 1-isomer by GLC assay).

reactant | 3-allylthio-1,2,4-triazole | C(C=C)SC1=NNC=N1 | C5H7N3S
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-diallylcarbamoyl-3-allylthio-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)SCC=C)CC=C | C12H16N4OS
